US04249021
Step A: 6,7-Dichloro-2-methyl-2-phenyl-5-trifluoromethylsulfonyloxy-1-indanone
After ten minutes a solution of trifluoromethanesulfonyl chloride (11.84 g., 0.07 mole) in acetone (150 ml.) is added over 10 minutes. After 15 minutes of stirring the precipitated salts are filtered and the acetone is evaporated at reduced pressure to leave an oil which upon trituration with hexane gives 15 g. of (6,7-dichloro-1-oxo-2-methyl-2-phenyl-5-indanyl)acetic acid which melts at 105°-107° C.

reactant | trifluoromethanesulfonyl chloride | 0.07 mole, 11.84 g | FC(S(=O)(=O)Cl)(F)F | CClF3O2S
reactant | (6,7-dichloro-1-oxo-2-methyl-2-phenyl-5-indanyl)acetic acid | ClC1=C(C=C2CC(C(C2=C1Cl)=O)(C1=CC=CC=C1)C)CC(=O)O | C18H14Cl2O3
reactant | acetone | 150 ml | CC(=O)C | C3H6O
product | 6,7-Dichloro-2-methyl-2-phenyl-5-trifluoromethylsulfonyloxy-1-indanone | ClC1=C(C=C2CC(C(C2=C1Cl)=O)(C1=CC=CC=C1)C)OS(=O)(=O)C(F)(F)F | C17H11Cl2F3O4S
